US08222249B2
5.21 5-(3-((2-(2,6-Dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenyl 2-aminoacetate Hydrochloride
To a mixture of 5-(3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenyl 2-(tert-butoxycarbonylamino)acetate (0.58 g, 1.0 mmol) in DCM (50 mL) is added 2M HCl in ether (1 mL), and the mixture is stirred for 24 hrs. The solid precipitate is filtered, rinsed with DCM (10 mL), and dried under vacuum to provide the product.

reactant | 5-(3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenyl 2-(tert-butoxycarbonylamino)acetate | 1.0 mmol, 0.58 g | C(C)(C)(C)OC(=O)NCC(=O)OC1=C(C=CC(=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)C | C29H33N5O8
reactant | HCl | 2M | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1 mL | CCOCC | C4H10O
product | 5-(3-((2-(2,6-Dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)ureido)-2-methylphenyl 2-aminoacetate Hydrochloride | Cl.NCC(=O)OC1=C(C=CC(=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)C | InChI=1S/C24H25N5O6.ClH/c1-13-2-4-16(9-19(13)35-21(31)10-25)27-24(34)26-11-14-3-5-17-15(8-14)12-29(23(17)33)18-6-7-20(30)28-22(18)32;/h2-5,8-9,18H,6-7,10-12,25H2,1H3,(H2,26,27,34)(H,28,30,32);1H
